US04731367
200 mg of 3-(2-ethynyl-6-methyl-8α-ergolinyl)-1,1-diethylurea is hydrogenated at room temperature and under normal pressure in 35 ml of ethanol with 200 mg of palladium/calcium carbonate (2%) and 200 mg of quinoline. After the mixture has been filtered off from the catalyst, it is evaporated. The residue is chromatographed over silica gel with methylene chloride/ethanol 6:1, thus obtaining 30 mg of 3-(6-methyl-2-vinyl-8α-ergolinyl)-1,1-diethylurea after recrystallization from ethanol/hexane, mp 145°-150° C.;

reactant | 3-(2-ethynyl-6-methyl-8α-ergolinyl)-1,1-diethylurea | 200 mg | C(#C)C1=C2C[C@H]3N(C[C@H](C[C@@H]3C=3C=CC=C(N1)C32)NC(N(CC)CC)=O)C | C22H28N4O
reactant | quinoline | 200 mg | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | ethanol | 35 ml | C(C)O | C2H6O
catalyst | palladium/calcium carbonate | 200 mg | [Pd] | Pd
product | 3-(6-methyl-2-vinyl-8α-ergolinyl)-1,1-diethylurea | 30 mg | CN1C[C@H](C[C@@H]2C=3C=CC=C4NC(=C(C[C@@H]12)C34)C=C)NC(N(CC)CC)=O | C22H30N4O
